US04251528
Ethyl 2-(3,4-dichlorobenzyl)-8-fluoro-1,2-dihydro-1-oxophthalazin-4-ylacetate (1.8 g.) was added to a solution of sodium (1.5 g.) in dry ethanol (150 ml.). The solution obtained was heated under reflux for 3 hours and then evaporated. Water (100 ml.) was added to the residue and the solid obtained was collected by filtration and dried to give ethyl 2(3,4-dichlorobenzyl)-8-ethoxy-1,2-dihydro-1-oxophthalazin-4-ylacetate (0.5 g.).

reactant | Ethyl 2-(3,4-dichlorobenzyl)-8-fluoro-1,2-dihydro-1-oxophthalazin-4-ylacetate | 1.8 g | ClC=1C=C(CN2C(C3=C(C=CC=C3C(=N2)CC(=O)OCC)F)=O)C=CC1Cl | C19H15Cl2FN2O3
reactant | sodium | 1.5 g | [Na] | Na
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 2(3,4-dichlorobenzyl)-8-ethoxy-1,2-dihydro-1-oxophthalazin-4-ylacetate | 0.5 g | ClC=1C=C(CN2C(C3=C(C=CC=C3C(=N2)CC(=O)OCC)OCC)=O)C=CC1Cl | C21H20Cl2N2O4
